US05739129
2-[2,4-dioxo-3-(3-phenyl-ureido)-5-pyridin-3-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide
A solution of phenyl isocyanate (36.6 mg, 0.295 mmol) in methylene chloride (1 ml) was added to a solution of 2-(3-Amino-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide (140 mg, 0.295 mmol) in methylene chloride (1 ml) and the resultant solution stirred at rt for 16 h. The solvent was removed in vacuo and the residue recrystalised from 5% methanol in ethyl acetate to afford the title compound product (49 mg) as a white powder. 1H NMR (300 MHz, CDCl-3). s 8.72 (s, 1H), 8.56 (d, 1H, J=8.0), 7.92 (d, 1H, J=8.0), 6.91-7.43 (m, 16H), 6.43 (d, 1H, J=8.3), 5.43 (d, 1H, J=8.3), 4.95 (sept, 1H, J=6.8), 4.60 (d, 1H, J=11.8), 4.18 (d, 1H, J=11.8), 3.88 (s, 3H), 1.06 (m, 6H). Low resolution MS (FAB) m/e 593 (m+).

reactant | phenyl isocyanate | 0.295 mmol, 36.6 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-(3-Amino-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.295 mmol, 140 mg | NC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O | C26H27N5O4
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-[2,4-dioxo-3-(3-phenyl-ureido)-5-pyridin-3-yl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl) acetamide | O=C1C(C(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O)NC(=O)NC2=CC=CC=C2 | C33H32N6O5
